US07994185B2
Intermediate 34: N-{5-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide
To a solution of N-{5-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (1.0 g, 2.3 mmol) in DMF (10 mL) was added NBS (0.49 g, 2.8 mmol). After stirring for 45 min at rt, 2-methylpropanethioamide (0.35 g, 3.4 mmol), was added and the reaction was stirred at rt. After 4 h, the reaction mixture was partitioned between ether and saturated aqueous NaHCO3. The organic layer was washed with brine, dried over anhydrous NaSCO4, filtered, and concentrated to generate 0.49 g (41% yield) as a yellow powder. MS (ESI) 525 (M+H).

reactant | N-{5-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 2.3 mmol, 1.0 g | ClC1=NC=CC(=N1)CC(=O)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C18H11ClF3N3O3S
reactant | NBS | 2.8 mmol, 0.49 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 2-methylpropanethioamide | 3.4 mmol, 0.35 g | CC(C(N)=S)C | C4H9NS
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-{5-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 41% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C22H16ClF3N4O2S2
